US05288693
Example 7: Preparation of 2-Acryloyl-1,4-benzoquinone
To a stirred solution of 2,5-dimethoxyphenyl vinyl ketone (2.5 g, 0.013 mole) in 25 ml of acetonitrile at 0° C. was added dropwise over 3 minutes an aqueous solution of (NH4)2Ce(NO2)6 (17.9 g, 0.033 mole) in 30 ml of water. After the addition, the dark brown mixture turned to yellowish-brown within 5 minutes. At that point, the mixture was poured into water and extracted with methylene chloride. The methylene chloride portion was washed twice with water and then with brine. After drying (MgSO4), the solvent was removed to give a brown oil, which was purified by column chromatography on silica gel, using diethyl ether/hexane (1/1) as eluant. The product was obtained as a reddish/orange, semi-solid residue; 0.8 g; IR (neat) 1670 cm-1 ; NMR (CDCl3) δ5.95 (d,1H); 6.5-7.2 (m5H).

reactant | 2,5-dimethoxyphenyl vinyl ketone | 0.013 mole, 2.5 g | C(=C)C(=O)C1=C(C=CC(=C1)OC)OC | C11H12O3
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | 2-Acryloyl-1,4-benzoquinone | C(C=C)(=O)C=1C(C=CC(C1)=O)=O | C9H6O3
